US05223529
Working as in Example 15, but starting with (RS)-2-[3-(3-methylphenyl)ureido]-3-phenylpropanoic acid (4.8 g) and tert-butyl anilinoacetate (3.3 g) in anhydrous 1,2-dichloroethane (300 cc) and thionyl chloride (1.16 cc), and recrystallizing successively in diethyl ether and then in isopropanol, tert-butyl (RS)-N-{2-[3-(3-methylphenyl)ureido]-3-phenylpropionyl}-N-phenylglycinate (3.2 g), m.p. 198° C., is obtained.

reactant | (RS)-2-[3-(3-methylphenyl)ureido]-3-phenylpropanoic acid | 4.8 g | CC=1C=C(C=CC1)NC(NC(C(=O)O)CC1=CC=CC=C1)=O | C17H18N2O3
reactant | tert-butyl anilinoacetate | 3.3 g | N(C1=CC=CC=C1)CC(=O)OC(C)(C)C | C12H17NO2
solvent | 1,2-dichloroethane | 300 cc | ClCCCl | C2H4Cl2
solvent | thionyl chloride | 1.16 cc | S(=O)(Cl)Cl | Cl2OS
product | tert-butyl (RS)-N-{2-[3-(3-methylphenyl)ureido]-3-phenylpropionyl}-N-phenylglycinate | 3.2 g | CC=1C=C(C=CC1)NC(NC(C(=O)N(CC(=O)OC(C)(C)C)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C29H33N3O4
